US20010036946A1
Methyl 3,5-dibromo-4-methoxy-D-phenylalanine
To a mixture of 5.5 g (14.12 mmol) of 3,5-dibromo-4-methoxy-D-phenylalanine-hydrochloride and 55 ml of methanol were added 150 ml of a saturated methanolic hydrogen chloride solution and the mixture was stirred for 20 hours at room temperature. The residue remaining after evaporation of the solvent was stirred with 50 ml of water and adjusted to pH 8 with saturated sodium hydrogen carbonate solution. The precipitate was suction filtered, stirred with 10 ml of isopropanol and left to stand overnight. The insoluble matter was filtered off and the filtrate was evaporated down in vacuo. The residue was further reacted as a crude product. Yield: 1.0 g (28.7%-. of theory) of a colourless oil,Rf=0.55 (eluant: dichloromethane/ethyl acetate/cyclohexane/methanol/conc. ammonia =300/80/25/25/3 (v/v/v/v/v)).

reactant | 3,5-dibromo-4-methoxy-D-phenylalanine-hydrochloride | 14.12 mmol, 5.5 g | Cl.BrC=1C=C(C[C@@H](N)C(=O)O)C=C(C1OC)Br
reactant | methanol | 55 ml | CO | CH4O
reactant | hydrogen chloride | 150 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | dichloromethane ethyl acetate cyclohexane methanol | ClCCl.C(C)(=O)OCC.C1CCCCC1.CO
product | Methyl 3,5-dibromo-4-methoxy-D-phenylalanine | CN[C@H](CC1=CC(=C(C(=C1)Br)OC)Br)C(=O)O | C11H13Br2NO3
